US07893056B2
{(2R)-2-(Cyclopentylmethyl)-3-[2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)hydrazino]-3-oxopropyl}[(phenylmethyl)oxy]formamide (136 mg, 0.278 mmol) and 3-[(2S)-2-pyrrolidinylmethyl]-3H-[1,2,3]triazolo[4,5-d]pyrimidine (63 mg, 0.308 mmol) were dissolved in DMSO (5 mL), then DIEA (59 μL, 0.308 mmol) was added, and the solution was heated at 65° C. overnight. When the reaction was complete as determined by LCMS, the solution was concentrated in vacuo, and the resulting crude product was purified by RP-HPLC to provide [(2R)-3-(2-{2-chloro-5-fluoro-6-[(2S)-2-(3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-ylmethyl)-1-pyrrolidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide (43 mg, 21%). LCMS: (M+H)+: 651.6.

reactant | {(2R)-2-(Cyclopentylmethyl)-3-[2-(2,6-dichloro-5-fluoro-4-pyrimidinyl)hydrazino]-3-oxopropyl}[(phenylmethyl)oxy]formamide | 0.278 mmol, 136 mg | C1(CCCC1)C[C@H](CN(C=O)OCC1=CC=CC=C1)C(=O)NNC1=NC(=NC(=C1F)Cl)Cl | C21H24Cl2FN5O3
reactant | 3-[(2S)-2-pyrrolidinylmethyl]-3H-[1,2,3]triazolo[4,5-d]pyrimidine | 0.308 mmol, 63 mg | N1[C@@H](CCC1)CN1N=NC2=C1N=CN=C2 | C9H12N6
reactant | DIEA | 0.308 mmol, 59 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | [(2R)-3-(2-{2-chloro-5-fluoro-6-[(2S)-2-(3H-[1,2,3]triazolo[4,5-d]pyrimidin-3-ylmethyl)-1-pyrrolidinyl]-4-pyrimidinyl}hydrazino)-2-(cyclopentylmethyl)-3-oxopropyl][(phenylmethyl)oxy]formamide | 43 mg, 21% | ClC1=NC(=C(C(=N1)NNC([C@@H](CN(C=O)OCC1=CC=CC=C1)CC1CCCC1)=O)F)N1[C@@H](CCC1)CN1N=NC2=C1N=CN=C2 | C30H35ClFN11O3
